US07629344B2
Step 2: 1-(4-chloro-3-methoxyphenyl)piperazine dihydrochloride
A 4-L beaker equipped with a mechanical stirrer was charged with tert-butyl 4-(4-chloro-3-methoxyphenyl)piperazine-1-carboxylate (500 g, 1.53 mol, 1 equiv) and MeOH (1.50 L). While stirring at room temperature conc. 37% HCl (500 mL, 4 equiv) was added over 5 min. The internal temperature rose to 40° C., and the solution became thick with precipitate. After 15 min, the mixture was heated to an internal temperature of 60° C. on a hotplate. (Foaming begun at approximately 50° C. as the mixture warms.) After 2 h at 60° C., the solution was cooled to room temperature, and subsequently to 5° C. in a refrigerator. The product was collected by filtration in two batches. Each batch of the red-brown filtrate was washed with EtOAc (2×500 mL) to give a light yellow solid. The two batches were combined to afford the product (391.3 g). The filtrate was concentrated to a volume of 300 mL in vacuo and treated with hot (50° C.) MeOH (500 mL). The mixture was cooled to 5° C. in a refrigerator for 24 h. The resulting precipitate was collected by filtration and washed with EtOAc (2×200 mL) to afford an additional 44.3 g of product (total of 435.6 g, 95% yield).

reactant | tert-butyl 4-(4-chloro-3-methoxyphenyl)piperazine-1-carboxylate | 1.53 mol, 500 g, 1 equiv | ClC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)OC | C16H23ClN2O3
reactant | HCl | 500 mL, 4 equiv | Cl | ClH
solvent | MeOH | 1.50 L | CO | CH4O
product | 1-(4-chloro-3-methoxyphenyl)piperazine dihydrochloride | 391.3 g | Cl.Cl.ClC1=C(C=C(C=C1)N1CCNCC1)OC | InChI=1S/C11H15ClN2O.2ClH/c1-15-11-8-9(2-3-10(11)12)14-6-4-13-5-7-14;;/h2-3,8,13H,4-7H2,1H3;2*1H
